US04788130
212.6 Grams of 4,6-dimethyl-2-(2-phenylacetyl)phenol was dissolved in 350 ml of N,N,N',N'-tetramethyldiaminomethane, then under ice-cooled condition with stirring, 350 ml of acetic anhydride was added dropwise thereto. The reaction mixture was further stirred at room temperature for 2 hours, then was poured in 1 kg of ice and stirred vigorously. The crystals separated in the mixture were collected by filtration, washes with water, then dried. Recrystallized from ethanol to obtain 186 g of 2,4-dimethyl-6-(2-phenylacryloyl)phenol. Colorless needle-like crystals. Melting point: 83°-84° C.

reactant | 4,6-dimethyl-2-(2-phenylacetyl)phenol | CC1=CC(=C(C(=C1)C)O)C(CC1=CC=CC=C1)=O | C16H16O2
reactant | acetic anhydride | 350 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | N,N,N',N'-tetramethyldiaminomethane | 350 ml | CN(C)CN(C)C | C5H14N2
product | 2,4-dimethyl-6-(2-phenylacryloyl)phenol | 186 g | CC1=C(C(=CC(=C1)C)C(C(=C)C1=CC=CC=C1)=O)O | C17H16O2
